US06815528B2
1-Acetyl-2-(4-methoxybenzoyl)hydrazine:
To 40 mL of THF were added 1.8 g (10.8 mmol) of 4-methoxybenzoylhydrazine, 0.9 g (11.5 mmol) of acetyl chloride and 1.1 g of TEA. The reaction mixture was stirred for 1 hour, followed by evaporation off ca. ½ volume of THF. The product was precipitated into methanol, filtered and dried over night under vacuum. Yield was 2.14 g (95%). MS (EI, m/e) calcd for C10H12N2O3 208, found 208 M+, 6.7); mp 146-148° C.

reactant | 4-methoxybenzoylhydrazine | 10.8 mmol, 1.8 g | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
reactant | acetyl chloride | 11.5 mmol, 0.9 g | C(C)(=O)Cl | C2H3ClO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-Acetyl-2-(4-methoxybenzoyl)hydrazine | C(C)(=O)NNC(C1=CC=C(C=C1)OC)=O | C10H12N2O3
